US04137324
(a) p-Chlorophenyl cyclopropyl ketone
A mixture of anhydrous aluminium chloride (20 g) and chlorobenzene (100 ml) was cooled to 10-15° C and treated dropwise with a solution of 4-chlorobutyrylchloride (20 g) in chlorobenzene (20 ml) over a period of 10 minutes with continuous stirring. The solution was warmed to 20-25° C and stirring was continued for a further 1 hour. It was poured onto ice and extracted with ether and the dried ethereal extract evaporated. The resulting liquid was treated with a solution of potassium hydroxide (12 g) in methanol (60 ml) and left to stand for 30 minutes with occasional shaking. After filtration the residue was washed with methanol and the filtrate evaporated to dryness. The oil was dissolved in ether and washed with water. The dried ethereal solution (Na2SO4) was evaporated and distilled (b.p.125-127°/5mm), yield =21.3 g,nD = 1.5700

reactant | aluminium chloride | 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobutyrylchloride | 20 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | chlorobenzene | 100 ml | ClC1=CC=CC=C1 | C6H5Cl
product | p-Chlorophenyl cyclopropyl ketone | C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C10H9ClO
